US07094909B2
A mixture of (2S,3S)-3-Amino-2-hydroxy-4-phenyl-butyric acid (110 kg, 563 mol), NaCl (195 kg), and THF (413 L) was charged with NEt3 (120 kg, 1183 mol) and H2O (414 L) at ambient temperature. The resulting mixture was cooled to 0° C. Acetic acid 3-chlorocarbonyl-2-methyl-phenyl ester (120 kg, 563 mol) was added to a separate reactor and was then dissolved in THF (185 L). The resulting solution of acetic acid 3-chlorocarbonyl-2-methyl-phenyl ester was cooled to 10° C., and was then added to the (2S,3S)-3-amino-2-hydroxy-4-phenyl-butyric acid mixture while maintaining the temperature <10° C. during addition. The resulting biphasic mixture was agitated at 5° C. for 1 h, and was then adjusted to pH 2.5–3.0 with concentrated HCl (62 kg). The mixture was then warmed to 25° C., and the layers were separated. The resulting THF fraction, containing (2S,3S)-3-(3-acetoxy-2-methyl-benzoylamino)-2-hydroxy-4-phenyl-butyric acid, was partially concentrated by distillation at one atmosphere. THF was then replaced with ethyl acetate by distillation at one atmosphere, while maintaining a minimum pot volume of 1500 L. The resulting solution was cooled to 25° C., and was then charged with acetic anhydride (74.8 kg, 733 mol) and methanesulfonic acid (10.8 kg, 112 mol). The mixture was heated at 70° C. for approximately 3 h. The mixture was cooled to 25° C., and was then quenched with H2O (1320 L) while maintaining the temperature at 20° C. After removal of the aqueous layer, the organic fraction was charged with ethyl acetate (658 L) and H2O (563 L). After agitation, the aqueous phase was removed. The organic fraction was washed twice with 13 wt. % aqueous NaCl (2×650 L). The organic fraction was partially concentrated and dried by vacuum distillation (70–140 mm Hg) to a volume of approximately 1500 L. The resulting solution was heated to 40° C., and was then charged with n-heptane (1042 L) while maintaining the temperature at 40° C. The solution was seeded with (2S,3S)-2-acetoxy-3-(3-acetoxy-2-methyl-benzoylamino)-4-phenyl-butyric acid (0.1 kg), and additional n-heptane (437 L) was then added slowly. The crystallizing mixture was maintained at 40° C. for 1 h. Additional n-heptane (175 L) was added while maintaining the temperature at 40° C. The crystalline suspension was cooled and held at 25° C. for 1 h, then at 0° C. for 2 h. The suspension was filtered, using n-heptane for rinsing. The wet cake was dried under vacuum at 55° C. to give 174 kg (74.5%) of (2S,3S)-2-acetoxy-3-(3-acetoxy-2-methyl-benzoylamino)-4-phenyl-butyric acid as a white solid: m.p.=152–154° C.; 1H NMR (300 MHz, CDCl3) δ 7.21–7.35 (m, 5H), 7.13 (app t, J=7.9 Hz, 1H), 7.01 (app d, J=8.1 Hz, 1H), 6.94 (app d, J=7.2 Hz, 1H), 5.99 (d, J=9.0 Hz, 1H), 5.33 (d, J=4.1 Hz, 1H), 4.96–5.07 (m, 1H), 3.07 (dd, J=5.5, 14.6 Hz, 1H), 2.90 (dd, J=10.0, 14.5 Hz, 1H), 2.30 (s, 3H), 2.18 (s, 3H), 1.96 (s, 3H); 13C NMR (125 MHz, CDCl3) δ 170.4, 170.2, 169.6, 169.5, 149.5, 137.81, 136.5, 129.2, 128.6, 128.4, 127.0, 126.6, 124.5, 123.7, 73.1, 50.9, 35.9, 20.6, 20.5, 12.4; elemental analysis calcd for C22H23NO7: C, 63.92; H, 5.61; N, 3.39; found: C, 64.22; H, 5.68; N, 3.33; MS (CI) m/z 414.1572 (414.1553 calcd for C22H24NO7, M+H+).

reactant | (2S,3S)-3-Amino-2-hydroxy-4-phenyl-butyric acid | 563 mol, 110 kg | N[C@H]([C@@H](C(=O)O)O)CC1=CC=CC=C1 | C10H13NO3
reactant | NaCl | 195 kg | [Na+].[Cl-]
reactant | NEt3 | 1183 mol, 120 kg | CCN(CC)CC | C6H15N
reactant | Acetic acid 3-chlorocarbonyl-2-methyl-phenyl ester | 563 mol, 120 kg | ClC(=O)C=1C(=C(C=CC1)OC(C)=O)C | C10H9ClO3
reactant | HCl | 62 kg | Cl | ClH
reactant | acetic anhydride | 733 mol, 74.8 kg | C(C)(=O)OC(C)=O | C4H6O3
reactant | methanesulfonic acid | 112 mol, 10.8 kg | CS(=O)(=O)O | CH4O3S
solvent | THF | 185 L | C1CCOC1 | C4H8O
solvent | THF | 413 L | C1CCOC1 | C4H8O
solvent | H2O | 414 L | O | H2O
product | (2S,3S)-2-acetoxy-3-(3-acetoxy-2-methyl-benzoylamino)-4-phenyl-butyric acid | 174 kg, 74.5% | C(C)(=O)O[C@H](C(=O)O)[C@H](CC1=CC=CC=C1)NC(C1=C(C(=CC=C1)OC(C)=O)C)=O | C22H23NO7
